US04294960
Ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 40 g.), N,N-dimethylformaide (200 ml.), potassium carbonate (52 g.) and n-hexyl bromide (41.4 g.) were treated in a similar manner to that of Example F-(1) to give ethyl 2-n-hexyloxyimino-3-oxobutyrate (syn isomer, 60.7 g.), oil.

reactant | Ethyl 2-hydroxyimino-3-oxobutyrate | 40 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexyl bromide | 41.4 g | C(CCCCC)Br | C6H13Br
product | ethyl 2-n-hexyloxyimino-3-oxobutyrate | 60.7 g | C(CCCCC)ON=C(C(=O)OCC)C(C)=O | C12H21NO4
